US08431607B2
A solution of (R)-1-[4-(4-chlorophenoxy)phenyl]-5-[3-(trifluoromethyl)phenyl]pyrrolidin-2-one (67 mg, 0.155 mmol) in THF (1 mL) is cooled to 0° C., then LiHMDS (0.31 mL, 1.0 M in THF, 0.31 mmol) is added. After addition, the resulting solution is further stirred at 0° C. for 45 min. Then allyl iodide (52 mg, 0.31 mmol) is added at 0° C. The resulting mixture is stirred at 0° C. for 1 h and 45 min, then the reaction is quenched with saturated NH4Cl solution (0.2 mL). THF is removed by evaporation and then the residue is dissolved in CH2Cl2 (40 mL), washed with brine (10 mL) and dried over Na2SO4. After concentration, the residue is purified on silica gel (0-50% ethyl acetate in hexane) to give (3S,5R)-1-[4-(4-chlorophenoxy)phenyl]-3-allyl-5-[3-(trifluoromethyl)phenyl]pyrrolidin-2-one (58.5 mg, 80%) and its (3R)-diastereomer (6.5 mg, 9%) as a colorless oil. HPLC-MS calculated for C26H21ClF3NO2 (M+H+) 472.12, found 472.10.

reactant | (R)-1-[4-(4-chlorophenoxy)phenyl]-5-[3-(trifluoromethyl)phenyl]pyrrolidin-2-one | 0.155 mmol, 67 mg | ClC1=CC=C(OC2=CC=C(C=C2)N2C(CC[C@@H]2C2=CC(=CC=C2)C(F)(F)F)=O)C=C1 | C23H17ClF3NO2
reactant | LiHMDS | 0.31 mmol, 1.0 M, 0.31 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | allyl iodide | 0.31 mmol, 52 mg | C(C=C)I | C3H5I
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (3S,5R)-1-[4-(4-chlorophenoxy)phenyl]-3-allyl-5-[3-(trifluoromethyl)phenyl]pyrrolidin-2-one | 58.5 mg, 80% | ClC1=CC=C(OC2=CC=C(C=C2)N2C([C@H](C[C@@H]2C2=CC(=CC=C2)C(F)(F)F)CC=C)=O)C=C1 | C26H21ClF3NO2
